US07727988B2
5-(3-Methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione (Prep26)
To a solution of 2,4-di-tert-butoxy-5-(3-methyl-thiophen-2-yl)-pyrimidine (Prep 25, 165 mg, 0.52 mmol) in dioxane (5 mL) 4N HClaq in dioxane (1 mL) was added at 0° C. After stirring for 8 hours, the mixture was evaporated to give 110 mg of the title compound as white solid (quantitative yield)

reactant | 2,4-di-tert-butoxy-5-(3-methyl-thiophen-2-yl)-pyrimidine | 0.52 mmol, 165 mg | C(C)(C)(C)OC1=NC=C(C(=N1)OC(C)(C)C)C=1SC=CC1C | C17H24N2O2S
solvent | dioxane | 4N, 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-(3-Methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione | 110 mg, quantitative yield | CC1=C(SC=C1)C=1C(NC(NC1)=O)=O | C9H8N2O2S
